US06583135B2
Preparation of tert-Butyl 10-(2,4-Dichlorophenyl)-6-(2-phenoxyethyl)-1,4,5,5a,6,10b-hexahydroazepino[4,5-b]indole-3(2H)-carboxylate
To a solution of tert-butyl 10-(2,4-dichlorophenyl)-1,4,5,5a,6,10b-hexahydroazepino[4,5-b]indole-3(2H)-carboxylate (54 mg) in DMF (1.2 ml) was added KH (10 mg) and 2-bromoethyl phenyl ether (30 mg). The reaction mixture was stirred 24 h, poured into satd NaHCO3, extracted with CH2Cl2, dried over MgSO4, filtered and concentrated. Purification via flash chromatography provided the title compound: 1H NMR (CDCl3) δ 1.63, 2.30-2.50, 2.92, 3.14, 3.42, 3.75, 4.26, 4.53, 6.84, 6.96, 7.20-7.51.

reactant | tert-butyl 10-(2,4-dichlorophenyl)-1,4,5,5a,6,10b-hexahydroazepino[4,5-b]indole-3(2H)-carboxylate | 54 mg | ClC1=C(C=CC(=C1)Cl)C=1C=2C3C(NC2C=CC1)CCN(CC3)C(=O)OC(C)(C)C | C23H26Cl2N2O2
reactant | 2-bromoethyl phenyl ether | 30 mg | C1(=CC=CC=C1)OCCBr | C8H9BrO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 1.2 ml | CN(C)C=O | C3H7NO
product | tert-Butyl 10-(2,4-Dichlorophenyl)-6-(2-phenoxyethyl)-1,4,5,5a,6,10b-hexahydroazepino[4,5-b]indole-3(2H)-carboxylate | ClC1=C(C=CC(=C1)Cl)C=1C=2C3C(N(C2C=CC1)CCOC1=CC=CC=C1)CCN(CC3)C(=O)OC(C)(C)C | C31H34Cl2N2O3
